US06013655
B. N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 4(A) using N-(4-chloro-5-methyl-3-isoxazolyl)thieno[2,3-b]pyridine-3-sulfonamide (0.30 g, 0.91 mmoles), EtOAc (30 ml), DIEA (0.24 ml, 1.4 mmoles) and MEM-Cl (0.11 ml, 1.0 mmoles). Flash chromatography (40% EtOAc/hexanes) provided 0.23 g (59%) of the title compound as a light yellow oil.

reactant | N-(4-chloro-5-methyl-3-isoxazolyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.91 mmoles, 0.30 g | ClC=1C(=NOC1C)NS(=O)(=O)C1=CSC2=NC=CC=C21 | C11H8ClN3O3S2
reactant | DIEA | 1.4 mmoles, 0.24 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | MEM-Cl | 1.0 mmoles, 0.11 ml | C(OCCOC)Cl | C4H9ClO2
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.23 g, 59% | ClC=1C(=NOC1C)N(S(=O)(=O)C1=CSC2=NC=CC=C21)COCCOC | C15H16ClN3O5S2
